US06638965B2
6.4 g (42 mmol) of 4-nitrobenzaldehyde are dissolved in 150 ml of methanol and combined with 4.9 g (42 mmol) of 5-aminovaleric acid and 1.8 g (29 mmol) of sodium cyanoborohydride. The mixture is stirred for 18 hours at ambient temperature and then carefully mixed with 20 ml of conc. hydrochloric acid. The solvent is eliminated in vacuo, the residue is taken up in water and extracted with dichloromethane. The residue obtained after evaporation is chromatographed on silica gel (dichloromethane/methanol, 4:1). A mixture of methyl 5-(4-nitrobenzylamino)-pentanoate and 4-(2-oxopiperidinomethyl)-nitrobenzene is obtained which is dissolved in 100 methanol and combined with 50 ml of 1 N sodium hydroxide solution. The mixture is stirred for one hour at ambient temperature, 50 ml of 1 N hydrochloric acid are added and the reaction solution is evaporated down to 100 ml. The aqueous phase thus obtained is extracted with dichloromethane. The combined organic phases are dried over sodium sulphate and evaporated to dryness.

reactant | 4-nitrobenzaldehyde | 42 mmol, 6.4 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 5-aminovaleric acid | 42 mmol, 4.9 g | NCCCCC(=O)O | C5H11NO2
reactant | sodium cyanoborohydride | 29 mmol, 1.8 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
solvent | water | O | H2O
product | 4-(2-oxopiperidinomethyl)-nitrobenzene | O=C1N(CCCC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C12H14N2O3
